US04975435
b. Ethyl N-(ethoxycarbonylacetyl)-N-benzylglycinate
To a 0° C solution of ethyl N-benzylglycinate (8 g) in tetrahydrofuran (4 ml) and diethyl ether (42 ml) was added simultaneously a solution of K2CO3 (5.72 g) in 20 ml of water and ethyl malonylchloride (6.54 g) in 20 ml diethyl ether. Following the addition the mixture was stirred at 0° for 1 hour then warmed to ambient temperature with stirring for 2 hours. The layers were separated with the organic phase washed once with brine. After drying (Na2SO4) and concentrating, there was obtained 12.5 g (98.8%) of the product as a viscous oil.

reactant | ethyl N-benzylglycinate | 8 g | C(C1=CC=CC=C1)NCC(=O)OCC | C11H15NO2
reactant | K2CO3 | 5.72 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl malonylchloride | 6.54 g | C(C)C(C(=O)Cl)C(=O)Cl | C5H6Cl2O2
reactant | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | 42 ml | C(C)OCC | C4H10O
solvent | water | 20 ml | O | H2O
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | Ethyl N-(ethoxycarbonylacetyl)-N-benzylglycinate | 12.5 g, 98.8% | C(C)OC(=O)CC(=O)N(CC(=O)OCC)CC1=CC=CC=C1 | C16H21NO5
